data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8393,"COC1=CC=C(COC2CC(CC(OC)C(CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[N-:1]N=N[P+:2](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)OC(C)(OC)C2)C=C1.O|(1, 2)"
train,pmechdb_split_0,0,8092,"CC(C)C1CCC2C3CCC4=C(C=CC=C4)C3C(=O)[CH:1]([H:2])C12O.CC(C)C1CC[CH:3]=[C:4]1[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5362,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].COC1=NC(C2=CN(COCC[Si](C)(C)C)C3=C2C2CC(OC)(CC([OH:2])C2C)C3=O)=CN=C1C1=CN(S(=O)(=O)C2=CC=C(C)C=C2)C2=CC(Br)=CC=C12|(2, 1)"
train,pmechdb_split_0,0,5785,"C=[C:1](C)[Mg:2][Br].CCN(CC)[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5665,"CO[C:1](O)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1183,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=CC=C(OCC2(C)CC[C+:1]2S[C:2]2=[CH:3]C=CC=C2)C=C1.O|((2, 3), 1)"
train,pmechdb_split_0,0,7982,"C[CH:1]([CH:2](C1=CC(F)=C([N+](=O)[O-])C=C1)[H:3])[Br:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3486,"CC(=O)C1=C(NC(=O)C(CC2=CC=CC=C2)[NH2+:1][H:2])C=CC=C1.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5067,"CCCC(CC(=O)OC(C)(C)C)[C:1](OC(=O)OCC)=[O:2].[H:3][BH3-:4].[Na+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2950,"CC(C)(C)OC(=O)NCC(=O)[O-].CC(C)NC(=O)NC(C)C.CCC1(O[C:1](CNC(=O)OC(C)(C)C)([N+:2]2=CC=C(N(C)C)C=C2)[O-:3])C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=[NH+]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7936,"O[O:1][H:2].[Na][O]C([O][Na])=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2115,"C[P:1](C)C.[Cl][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,4496,"C1=CC=[NH+]C=C1.CC(O[C:1](C(F)(F)F)=[O:2])SC1=CC=CC=C1.O=C(C(F)(F)F)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5853,"C[N+:1](C)=[C:2]1OCCCO1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,518,"CC#[C:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9217,"CC1=[NH+]CCC2=CC=CC=C21.CC[C:1]1([O:2]P(=O)(Cl)Cl)C2=C(C=CC=C2)CC[NH:3]1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9617,"CC(C[N+](=O)[O-])[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3171,"C[N:1](C=O)[Br:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,271,"CO[C:1](O)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8241,"C1=CN=C([C:1](=[O:2])[CH:3]=[CH:4]C2=CC=CO2)C=C1.CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N:5]2C(C)=C(CCO)S[C:6]2=[C:7](O)CCCOCC2=CC=CC=C2)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(5, 6);((6, 7), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3755,"CC(=O)O[Si:1](C)(C)C.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,7095,"CC1(C)OC(C(C=O)OCC2=CC=CC=C2)C(C(OCC2=CC=CC=C2)C(O)[S:1]C)O1.CS.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7787,"CC(=C1C(=O)CC(C)(C)CC1=O)[O-:1].CC[N+]([K])(CC)CC.N#[C:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5567,"CC(=O)[O-:1].COC1=C2C(=CC=C1)O[C:2](=[O:3])[C:4](NC(=O)C1=CC=CC=C1)([H:5])C2OC(C)=O.O=C(O)[O][K].O=C([O-])[O][K].[K+]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7422,"O[CH:1]([OH:2])[Br:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9493,"CCOC(=O)N1CCC=CC1C[CH+]C[Si](C)(C)C.[Cl][Sn-:1]([Cl])([Cl])([Cl])[OH:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6756,"CC1CC(C2=CC=CC=C2)[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9407,"C=C[C:1](CC(C)=[N+]1CCCC1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2733,"CC(O)(O)[NH2:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7788,"C1=CC=NC=C1.CC1(C)CC2=CC3=COC=C3CC2(O)C(O)C1.CC1=CC=C([S:1](=O)([N+]2=CC=C(N(C)C)C=C2)([O-:2])[Cl:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7483,"COC1=C([NH2:1])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3203,"CC[NH2+:1][C:2](C)(O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7216,"COC(C(C)=[C+]C[Si:1](C)(C)C)C1=CC=CC=C1.COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O-][Cl+3]([O-])([O-])[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9527,"CC(=O)CCC(C)([NH2+]CCO)[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8367,"O.O=C(O)C(CC1=CC(=O)[C:1](=[O:2])[CH:3]=[CH:4]1)[NH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5222,"C[Si](C)(C)[O+:1]1CC[O:2][CH2:3]1|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,9419,"[CH2:1]([NH2:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8901,"CCCCO[C:1](N1CCN(C2=CN=C(NC3=NC4=C(C=N3)C(C)=C(C(C)=O)C(=O)N4C3CCCC3)C=C2)CC1)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CN(C)C1=CC=[NH+]C=C1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8083,"CC(C)[NH+](C(C)C)[Li:1].CCC(=O)N(C)C(C)C(C1=CC=CC=C1)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,5776,"CC#[C:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1633,"COC(=O)C12CCCC(Br)(C1=O)[C+:1](C)[CH:2]([H:3])C2.O=S(=O)([O-])O.[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3943,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C=C(S(=O)(=O)O)C=C2.[F-:4]|(4, 2);((2, 1), 3)"
